US05082934
Preparation of 7-Bromomethylcoumarin
To 50 ml of chloroform was added 7-methylcoumarin (10 g, 62.4 mmol) and N-bromosuccinimide (11.1 g, 62.4 mmol). The suspension was then refluxed for 24 hours at which time a clear solution resulted. Reflux was continued for five days. At this point a spherical lump of crystals had formed. The reaction mixture was cooled to room temperature and was then placed in the refrigerator at 0° C. for 24 hrs. The crystals were collected by filtration and washed with a small amount of cold chloroform. After brief evacuation to remove chloroform, the crystals were dissolved in a minimum amount of boiling acetone and allowed to crystallize for several days. The crystals were collected by filtration and washed with a little cold acetone. After drying in vacuo the yield was , 7.15 g (48% of theory). The melting point was 179.5°-181.5° C.

reactant | 7-methylcoumarin | 62.4 mmol, 10 g | CC1=CC=C2C=CC(OC2=C1)=O | C10H8O2
reactant | N-bromosuccinimide | 62.4 mmol, 11.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-Bromomethylcoumarin | BrCC1=CC=C2C=CC(OC2=C1)=O | C10H7BrO2
